US07582781B2
(2R,3S)-3-(tert-Butyldimethylsilyloxy)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol
To a solution of 0.22 g (5.4 mmol) of sodium hydride (60% content) in 3 mL of DMF was added 0.37 g (5.4 mmol) of triazole. Furthermore, a solution of 0.63 g (1.8 mmol) of (2R,3S)-1-chloro-2-(2,4-difluorophenyl)-3-(tert-butyldimethylsilyloxy)butan-2-ol in 10 mL of DMF was added thereto. The resulting reaction mixture was stirred at room temperature for 2 hours and then at 50° C. for 12 hours. Next, 10 mL of water was added to stop the reaction, and extraction was performed with ethyl acetate (30 mL). After drying over anhydrous sodium sulfate, concentration was performed under reduced pressure to obtain a crude product. The resulting product was purified by column on silica gel to obtain 0.18 g of the title compound (yield: 25%). 1H-NMR (400 MHz, CDCl3) δ: 0.22 (s, 6H), 0.97 (s, 12H), 4.42 (dq, 1H, J=5.9, 1.2 Hz), 4.54 (d, 1H, J=1.4 Hz), 4.81 (d, 1H, J=1.4 Hz), 6.67-6.78 (m, 2H), 7.32-7.38 (m, 1H), 7.71 (s, 1H), 7.96 (s, 1H).

reactant | sodium hydride | 5.4 mmol, 0.22 g | [H-].[Na+]
reactant | triazole | 5.4 mmol, 0.37 g | N1N=NC=C1 | C2H3N3
reactant | (2R,3S)-1-chloro-2-(2,4-difluorophenyl)-3-(tert-butyldimethylsilyloxy)butan-2-ol | 1.8 mmol, 0.63 g | ClC[C@@]([C@H](C)O[Si](C)(C)C(C)(C)C)(O)C1=C(C=C(C=C1)F)F | C16H25ClF2O2Si
reactant | water | 10 mL | O | H2O
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (2R,3S)-3-(tert-Butyldimethylsilyloxy)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | 0.18 g, yield: 25% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C | C18H27F2N3O2Si
